US08198456B2
A mixture of crude 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-indazole-1-carboxylic acid tert-butyl ester (165 mg) and HCl (4M solution in THF, 2 mL) was stirred overnight at room temperature. The mixture was partitioned between dilute aqueous sodium hydrogen carbonate solution (0.5%, 40 mL) and EtOAc (40 mL). The organic extract was dried (Na2SO4), concentrated and the residue purified by chromatography on silica gel to give 1,4-dihydro-4-[3-[(2-hydroxyethyl)amino]-1H-indazol-5-yl]-2,6-dimethyl-3,5-pyridinedicarbonitrile (66 mg) (Cpd. No. 118, Table 2).

reactant | 3-[2-(tert-butyl-dimethyl-silanyloxy)-ethylamino]-5-(3,5-dicyano-2,6-dimethyl-1,4-dihydro-pyridin-4-yl)-indazole-1-carboxylic acid tert-butyl ester | 165 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)C1C(=C(NC(=C1C#N)C)C)C#N)NCCO[Si](C)(C)C(C)(C)C | C29H40N6O3Si
reactant | HCl | 4M, 2 mL | Cl | ClH
product | 1,4-dihydro-4-[3-[(2-hydroxyethyl)amino]-1H-indazol-5-yl]-2,6-dimethyl-3,5-pyridinedicarbonitrile | 66 mg | OCCNC1=NNC2=CC=C(C=C12)C1C(=C(NC(=C1C#N)C)C)C#N | C18H18N6O
